US06599917B1
d) 4-Benzyl-5-bromo-2-(3,4-methylenedioxyphenyl)thiazole
367 mg of 4-benzyl-2-(3,4-methylenedioxyphenyl)thiazole was dissolved in 2 ml of N,N-dimethylformamide 244 mg of N-bromosuccinimide was added thereto under ice-cooling, followed by stirring overnight. Then, ethyl acetate was added to the reaction solution, followed by washing with water. The organic phase was further washed with brine, dried over anhydrous sodium sulfate and the solvent was removed. The residue was subjected to silica gel column chromatography using 3% ethyl acetate/hexane as an eluent for separation and purification, to give 377 mg of the target compound.

reactant | 4-benzyl-2-(3,4-methylenedioxyphenyl)thiazole | 367 mg | C(C1=CC=CC=C1)C=1N=C(SC1)C1=CC2=C(C=C1)OCO2 | C17H13NO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 2 ml, 244 mg | CN(C=O)C | C3H7NO
product | 4-Benzyl-5-bromo-2-(3,4-methylenedioxyphenyl)thiazole | 377 mg | C(C1=CC=CC=C1)C=1N=C(SC1Br)C1=CC2=C(C=C1)OCO2 | C17H12BrNO2S
